US06790860B2
6-ring: To rac-cis-Piperidine-2,5-dicarboxylic acid dimethyl ester [Frank J., J. Heterocyclic Chem. 32, 857-861 (1995)] (36.2 g) dissolved in dichloromethane (720 ml) were added 4-dimethylaminopyridine (33.0 g) and, dropwise, methanesulphonyl chloride (28.6 g) within 10 minutes and room temperature. The temperature rose to 35° C. The reaction mixture was stirred 1 h at room temperature, washed with 2 molar HCJ, sodium carbonate-solution and brine, dried over magnesium sulphate and concentrated to dryness to obtain (2RS,5RS)-1-methanesulfonyl-piperidine-2,5-dicarboxylic acid dimethyl ester (46.8 g) as a syrup, MS: 220 (M+-59).

reactant | rac-cis-Piperidine-2,5-dicarboxylic acid dimethyl ester | 36.2 g | COC(=O)[C@@H]1NC[C@@H](CC1)C(=O)OC | C9H15NO4
reactant | methanesulphonyl chloride | 28.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 720 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 33.0 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2RS,5RS)-1-methanesulfonyl-piperidine-2,5-dicarboxylic acid dimethyl ester | 46.8 g | COC(=O)C1N(CC(CC1)C(=O)OC)S(=O)(=O)C | C10H17NO6S
